US04851519
A solution of (2,6-dichlorophenyl)acetyl chloride (prepared from 103 mg of the acid) in 2 ml of diethyl ether was added to a solution of 140 mg of 5'-amino-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine in 2.5 ml of 0.2M sodium hydroxide solution, the mixture was shaken vigorously for 10 minutes and then filtered. The solid was washed with 5 ml of water and 50 ml of diethyl ether, and then recrystallized from acetone to give 60 mg of 5'-[2-(2,6-dichlorophenyl)acetamido]-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine in the form of a white solid of melting point 249°-250° C.

reactant | (2,6-dichlorophenyl)acetyl chloride | ClC1=C(C(=CC=C1)Cl)CC(=O)Cl | C8H5Cl3O
reactant | 5'-amino-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine | 140 mg | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)OCC | C13H21N3O4
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | sodium hydroxide | 0.2M, 2.5 ml | [OH-].[Na+]
product | 5'-[2-(2,6-dichlorophenyl)acetamido]-2',5'-dideoxy-3'-O-ethyl-5-ethyluridine | 60 mg | ClC1=C(C(=CC=C1)Cl)CC(=O)NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)OCC | C21H25Cl2N3O5
